US05238938
Synthesis of 3-tert-butoxycarbonyloxy-5-(indol-3-yl)methyl-2-isobutyl-6-methoxypyrazine 1-oxide (Compound C-10)
In 0.5 ml of dichloromethane-methanol (3:1) was dissolved 10 mg of 3-tert-butoxycarbonyloxy-6-hydroxy-5-(indol-3-yl)methyl-2-isobutylpyrazine 1-oxide. Thereto were added, under ice cooling, a solution of diazomethane dissolved in diethyl ether and 4-5 drops of a solution of 0.1 M of boron tribromide dissolved in methylene chloride. The container was cook-stoppered and the contents were stirred for 12 hours at room temperature. The contents were then diluted with 5 ml of dichloromethane, and the mixture was washed with an aqueous sodium hydrogen carbonate solution and dried over sodium sulfate. The solvent was removed by evaporation under reduced pressure. The residue was purified by a silica gel thin layer chromatography (dichloromethane:methanol=40:1) to obtain 3.6 mg of the title compound as a pale brown solid substance.

reactant | 3-tert-butoxycarbonyloxy-6-hydroxy-5-(indol-3-yl)methyl-2-isobutylpyrazine 1-oxide | 10 mg | C(C)(C)(C)OC(=O)OC=1C(=[N+](C(=C(N1)CC1=CNC2=CC=CC=C12)O)[O-])CC(C)C | C22H27N3O5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | boron tribromide | 0.1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane methanol | 0.5 ml | ClCCl.CO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-tert-butoxycarbonyloxy-5-(indol-3-yl)methyl-2-isobutyl-6-methoxypyrazine 1-oxide | 3.6 mg | C(C)(C)(C)OC(=O)OC=1C(=[N+](C(=C(N1)CC1=CNC2=CC=CC=C12)OC)[O-])CC(C)C | C23H29N3O5
